US05488147
Example 4 - Preparation of 4,4'-Di-t-butylbiphenyl.
Into a 250 ml 3-neck round bottom flask equipped with a mechanical stirrer, thermometer, and inlet was charged, with agitation, 40 mL of nitromethane to which was added portionwise 20.7 grams (156 mmol, 1.69 eq) of aluminum chloride with agitation and cooling so as not to exceed 40° C. This solution was added to a mixture of 14.2 grams (92.1 mmol, 1.0 eq) of biphenyl and 26.5 grams (120 mmol, 1.3 eq) of 2,6-di-t-butyl-4-methylphenol in 40 mL of nitromethane at 15° C. over a period of 5 to 10 minutes. The mixture turned a dark opaque color and near the end of the addition, the mixture became very thick. The reaction mixture was allowed to stir for 30 minutes and then poured into ice-water. The mixture was extracted with ether twice and the ether layer was concentrated in vacuo. Additional ether was added to the solid and the mixture was concentrated in vacuo. Toluene was added to the solid and the mixture was concentrated in vacuo. This treatment was to insure removal of nitromethane before washing with base. The brown solid residue was dissolved in ether and washed with approximately 300 mL of 1M sodium hydroxide until the aqueous layer was no longer deeply colored. The organic layer was washed with water and concentrated in vacuo. The brown residue was recrystallized from approximately 150 mL of ethanol to give 10 grams (41% yield). Melting point=129°-130° C.

reactant | aluminum chloride | 156 mmol, 20.7 grams, 1.69 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | biphenyl | 92.1 mmol, 14.2 grams, 1.0 eq | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 2,6-di-t-butyl-4-methylphenol | 120 mmol, 26.5 grams, 1.3 eq | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | nitromethane | 40 mL | [N+](=O)([O-])C | CH3NO2
reactant | nitromethane | 40 mL | [N+](=O)([O-])C | CH3NO2
product | 4,4'-Di-t-butylbiphenyl | 41% yield | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C)C | C20H26
